US03963660
The 4-nitro substituted starting material is prepared by contacting 2,6-dimethylpyridine N-oxide with nitric acid and sulfuric acid thereby forming the 2,6-dimethyl-4-nitropyridine. The N-oxide is reduced to the pyridine compound with phosphorous trichloride and then oxidized to the 4-nitropyridine 2,6-dicarboxylic acid with potassium permanganate.

reactant | 2,6-dimethylpyridine N-oxide | CC1=[N+](C(=CC=C1)C)[O-] | C7H9NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,6-dimethyl-4-nitropyridine | CC1=NC(=CC(=C1)[N+](=O)[O-])C | C7H8N2O2
